### PR TITLE
[Merged by Bors] - feat: `X ⟶ M` is a commutative monoid if `M` is a commutative monoid object

### PR DESCRIPTION
**Pull request by YaelDillies**
Also add a shortcut `Grp_.homMk` of `Mon_.Hom.mk` for `Grp_`, provide Yoneda-like lemmas for monoid morphisms and bundle `Mon_.ext` into an `Injective` lemma. Unsimp `Grp_Class.tensorHom_inv_inv_mul` since it loops with  `IsMon_Hom.mul_hom` + `IsMon_Hom ι`.

From Toric

Co-authored-by: Andrew Yang <the.erd.one@gmail.com>
Co-authored-by: Michał Mrugała <kiolterino@gmail.com>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

File: Mathlib/CategoryTheory/Monoidal/Cartesian/Grp_.lean [hunk 1]
```diff
@@ -131,3 +133,86 @@ lemma Grp_Class.inv_comp (f : X ⟶ G) (g : G ⟶ H) [IsMon_Hom g] : f⁻¹ ≫
...
+
+@[reassoc]
+lemma Grp_Class.div_comp (f g : X ⟶ G) (h : G ⟶ H) [IsMon_Hom h] :
+    (f / g) ≫ h = (f ≫ h) / (g ≫ h) :=
+  ((yonedaGrp.map (Grp_.homMk h)).app (.op X)).hom.map_div f g
+
+@[reassoc]
+lemma Grp_Class.comp_zpow (f : X ⟶ Y) (g : Y ⟶ G) : ∀ n : ℤ, f ≫ g ^ n = (f ≫ g) ^ n
+  | (n : ℕ) => by simp [comp_pow]
+  | .negSucc n => by simp [comp_pow, comp_inv]
```
Comment (erdOne) [inline Mathlib/CategoryTheory/Monoidal/Cartesian/Grp_.lean:149]: And also `zpow_comp`.

File: Mathlib/CategoryTheory/Monoidal/Cartesian/Grp_.lean [hunk 2]
```diff
@@ -131,3 +133,86 @@ lemma Grp_Class.inv_comp (f : X ⟶ G) (g : G ⟶ H) [IsMon_Hom g] : f⁻¹ ≫
...
+
+lemma Grp_Class.mul_inv_rev [BraidedCategory C] : μ ≫ ι = (ι[G] ⊗ ι) ≫ (β_ _ _).hom ≫ μ := by
+  calc
+    _ = (fst G G * snd G G) ≫ ι := by rw [mul_eq_mul]
+    _ = (snd G G)⁻¹ * (fst G G)⁻¹ := by simp [← Hom.inv_def]
+    _ = lift (snd G G ≫ ι) (fst G G ≫ ι) ≫ μ := rfl
+    _ = lift (fst G G ≫ ι) (snd G G ≫ ι) ≫ (β_ G G).hom ≫ μ := by simp
+    _ = (ι[G] ⊗ ι) ≫ (β_ _ _).hom ≫ μ := by simp
```
Comment (erdOne) [inline Mathlib/CategoryTheory/Monoidal/Cartesian/Grp_.lean:157]: I am guessing `by simp [mul_eq_mul, inv_eq_inv]` will get you very close to the goal if not close it directly.

File: Mathlib/CategoryTheory/Monoidal/Cartesian/Grp_.lean [hunk 3]
```diff
@@ -131,3 +133,86 @@ lemma Grp_Class.inv_comp (f : X ⟶ G) (g : G ⟶ H) [IsMon_Hom g] : f⁻¹ ≫
...
+
+instance [BraidedCategory C] [IsCommMon G] : IsMon_Hom ι[G] where
+  one_hom := by simp [one_eq_one, ← Hom.inv_def]
+  mul_hom := by simp [Grp_Class.mul_inv_rev]
+
+namespace Grp_
+variable {G H : Grp_ C}
+
+namespace Hom
+
```
Comment (erdOne) [inline Mathlib/CategoryTheory/Monoidal/Cartesian/Grp_.lean:170]: Can you also add the lemmas analogous to `Mon_.one_eq_one`?

File: Mathlib/CategoryTheory/Monoidal/Cartesian/Grp_.lean [hunk 4]
```diff
@@ -131,3 +133,86 @@ lemma Grp_Class.inv_comp (f : X ⟶ G) (g : G ⟶ H) [IsMon_Hom g] : f⁻¹ ≫
...
+variable [BraidedCategory C] [IsCommMon H.X]
+
+instance instMul : Mul (G ⟶ H) := inferInstanceAs <| Mul (G.toMon_ ⟶ H.toMon_)
+
+instance instPow : Pow (G ⟶ H) ℕ := inferInstanceAs <| Pow (G.toMon_ ⟶ H.toMon_) ℕ
+
+instance {f : G ⟶ H} : IsMon_Hom f.hom⁻¹ where
+  one_hom := by simp [Hom.inv_def]
+  mul_hom := by simp [Hom.inv_def]
```
Comment (erdOne) [inline Mathlib/CategoryTheory/Monoidal/Cartesian/Grp_.lean:183]: We should have this for unbundled `IsMon_Hom` first.

File: Mathlib/CategoryTheory/Monoidal/Cartesian/Mon_.lean [hunk 5]
```diff
@@ -81,7 +81,7 @@ def Mon_Class.ofRepresentableBy (F : Cᵒᵖ ⥤ MonCat.{w}) (α : (F ⋙ forget
 alias Mon_ClassOfRepresentableBy := Mon_Class.ofRepresentableBy
 
 /-- If `M` is a monoid object, then `Hom(X, M)` has a monoid structure. -/
-abbrev Hom.monoid : Monoid (X ⟶ M) where
+instance Hom.instMonoid : Monoid (X ⟶ M) where
```
Comment (erdOne) [inline Mathlib/CategoryTheory/Monoidal/Cartesian/Mon_.lean:84]: Do we really want this to be a global instance? Maybe scoped in `Mon_Class`?

File: Mathlib/CategoryTheory/Monoidal/Cartesian/Mon_.lean [hunk 6]
```diff
@@ -216,25 +222,72 @@ lemma essImage_yonedaMon :
...
+    mul_hom := by simp [mul_eq_mul, comp_mul, mul_comp, mul_mul_mul_comm]
+  }
+
+instance instPow : Pow (M ⟶ N) ℕ where
+  pow f n := {
+    hom := f.hom ^ n
+    one_hom := by simp [one_eq_one, Mon_Class.one_comp, Mon_Class.comp_pow]
+    mul_hom := by
+      simp [mul_eq_mul, Mon_Class.comp_mul, Mon_Class.mul_comp, Mon_Class.comp_pow, mul_pow]
+  }
```
[the remark this answers is not in the document]
Comment (YaelDillies) [reply Mathlib/CategoryTheory/Monoidal/Cartesian/Mon_.lean:285]: `(x * y) ^ n = x ^ n * y ^ n` only if `x` and `y` commute, so yes it is necessary

File: Mathlib/CategoryTheory/Monoidal/Cartesian/Grp_.lean (hunk 2 above)
Comment (YaelDillies) [reply Mathlib/CategoryTheory/Monoidal/Cartesian/Grp_.lean:157]: Apologies I don't see it

File: Mathlib/CategoryTheory/Monoidal/Cartesian/Mon_.lean (hunk 5 above)
Comment (YaelDillies) [reply Mathlib/CategoryTheory/Monoidal/Cartesian/Mon_.lean:84]: What could it conflict with?

Comment (erdOne) [reply Mathlib/CategoryTheory/Monoidal/Cartesian/Mon_.lean:84]: `Monoid (X ⟶ X)` as the monoid of endomorphisms, `Monoid (M ⟶ N)` in `CommGrp` etc.

File: Mathlib/CategoryTheory/Monoidal/Cartesian/Grp_.lean (hunk 2 above)
Comment (erdOne) [inline Mathlib/CategoryTheory/Monoidal/Cartesian/Grp_.lean:157]:
```suggestion
  simp [mul_eq_mul, inv_eq_inv, mul_comp, comp_inv, comp_mul]
```

File: Mathlib/CategoryTheory/Monoidal/Cartesian/Mon_.lean (hunk 5 above)
Comment (YaelDillies) [reply Mathlib/CategoryTheory/Monoidal/Cartesian/Mon_.lean:84]: For the first one, we have `CategoryTheory.End`. For the second one, they are defeq, right?

I don't see why the rules in category theory land should be different from outside

Comment (erdOne) [reply Mathlib/CategoryTheory/Monoidal/Cartesian/Mon_.lean:84]: They are equal but I am not sure if they are defeq. More generally there are preadditive categories where they are additive group structures (which will conflict once we additivize things) on hom sets where you have no control over the defeqs.

Comment (erdOne) [reply Mathlib/CategoryTheory/Monoidal/Cartesian/Mon_.lean:84]: Since you already open `Mon_Class` everywhere, I don't think scoping it there would be that bad?

File: Mathlib/CategoryTheory/Monoidal/Cartesian/Grp_.lean (hunk 2 above)
Comment (erdOne) [reply Mathlib/CategoryTheory/Monoidal/Cartesian/Grp_.lean]: More generally, we could probably write a tactic that does this. Curate a simpset, do simp [that] + group or abel or aesop_cat or whatever.

Comment (YaelDillies) [reply Mathlib/CategoryTheory/Monoidal/Cartesian/Grp_.lean]: Yeah, very good point. I'll try collecting more examples

File: Mathlib/CategoryTheory/Monoidal/Cartesian/Mon_.lean (hunk 5 above)
Comment (YaelDillies) [reply Mathlib/CategoryTheory/Monoidal/Cartesian/Mon_.lean:84]: Hmm actually how do I scope an *instance*? I tried
```
scoped[Mon_Class] attribute [local instance] Hom.instMonoid
-- elaboration function for 'Mathlib.Tactic.scopedNS' has not been implemented
```

Comment (joelriou) [reply Mathlib/CategoryTheory/Monoidal/Cartesian/Mon_.lean:84]: I agree that the (add)monoid/group instances must be scoped. If you make `instMonoid` a def instead, it seems the syntax would be:
```lean
scoped [Hom_Class] attribute [instance] Hom.instMonoid
```

**Comment by robin-carlier** [comment]
Can you please adhere to the naming convention for your PRs? `feat(CategoryTheory/Monoidal/Cartesian): ...` 
and give a better description to the PR than "From Toric"? This makes things easier to read from the RSS feed or the git history.

File: Mathlib/CategoryTheory/Monoidal/Cartesian/Grp_.lean [hunk 7]
```diff
@@ -47,14 +52,15 @@ def Grp_Class.ofRepresentableBy (F : Cᵒᵖ ⥤ Grp.{w}) (α : (F ⋙ forget _)
...
 abbrev Hom.group : Group (X ⟶ G) where
-  __ := monoid
   inv f := f ≫ ι
   inv_mul_cancel f := calc
     lift (f ≫ ι) f ≫ μ
     _ = (f ≫ lift ι (𝟙 G)) ≫ μ := by simp
     _ = toUnit X ≫ η := by rw [Category.assoc]; simp
 
-attribute [local instance] Hom.group
+scoped[Hom] attribute [instance] Hom.group
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Monoidal/Cartesian/Grp_.lean]: In what namespace does this gets scoped? `open scoped Hom` seems like a very unintuitive thing to open to get that a `Hom`-type is a group. Also here, `Hom.group` (and in fact everything) is in the root namespace (not even `CategoryTheory`), this feels wrong.

Comment (erdOne) [reply Mathlib/CategoryTheory/Monoidal/Cartesian/Grp_.lean]: IMO this should be scoped in `Mon_Class.Hom`.

Or just `Mon_Class`.

File: Mathlib/CategoryTheory/Monoidal/Cartesian/Grp_.lean [hunk 8]
```diff
@@ -121,12 +127,100 @@ lemma essImage_yonedaGrp :
...
+@[reassoc]
+lemma Grp_Class.div_comp (f g : X ⟶ G) (h : G ⟶ H) [IsMon_Hom h] :
+    (f / g) ≫ h = (f ≫ h) / (g ≫ h) :=
+  ((yonedaGrp.map (Grp_.homMk h)).app (.op X)).hom.map_div f g
+
+@[reassoc]
+lemma Grp_Class.zpow_comp (f : X ⟶ G) (n : ℤ) (g : G ⟶ H) [IsMon_Hom g] :
+    (f ^ n) ≫ g = (f ≫ g) ^ n :=
+  ((yonedaGrp.map (Grp_.homMk g)).app (.op X)).hom.map_zpow f n
+
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Monoidal/Cartesian/Grp_.lean:141]: Maybe it should be documented somewhere that these lemmas (and some of the ones below) are aligned with `MonoidHom.map_inv`, `Monoiidhom.map_div` etc. so that `_ ≫ g` has the same API as a `MonoidHom`, to justify the choice of what is in the LHS/RHS, and what is/isn’t simp lemmas.

**Comment by YaelDillies** [comment]
> Can you please adhere to the naming convention for your PRs? `feat(CategoryTheory/Monoidal/Cartesian): ...`

This was the naming convention in Lean 3 and we moved away from it since the file location usually adds very little information (only exception is when doing cleanup PRs that could be reasonably performed in various parts of the library).

> give a better description to the PR than "From Toric"

Sure. I usually wait until it's clearer what the PR is about to actually write the PR description since I am still struck with RSI. In this case, I am about to rewrite the whole PR to avoid duplicating the instances across the different hom types.

**Comment by robin-carlier** [comment]
> This was the naming convention in Lean 3 and we moved away from it since the file location usually adds very little information (only exception is when doing cleanup PRs that could be reasonably performed in various parts of the library).

I most definitely find that it *does* add information: I pick the PRs I read based on what their scope is (also, while the tag adds some of this information, but is deleted when the PR gets merged, it does not appear in the git history), so ymmv.
But it’s true that the contribution guidelines lists the scope as optional now, I assumed that it was not the case, so my bad.

File: Mathlib/CategoryTheory/Monoidal/Cartesian/Grp_.lean (hunk 8 above)
Comment (YaelDillies) [reply Mathlib/CategoryTheory/Monoidal/Cartesian/Grp_.lean:141]: Maybe that should be a separate PR. This naming convention is preexisting and I am not sure where such documentation would go

**Comment by YaelDillies** [comment]
In this instance, I don't have anything to add in the description; the title already says it all.

**Comment by robin-carlier** [comment]
> In this instance, I don't have anything to add in the description; the title already says it all. 

You are also
- Providing a constructor for morphisms in `Grp_`
- Providing lemmas that makes `_ ≫ g` a "moral" monoidHom
- Providing an extensionality principle for monoid objects.

I'm sorry if I sound obnoxious here, but as someone who keeps up with Mathlib though the RSS Feed and the git history, the more precise a PR description (and hence a commit message) is, the better it is.

File: Mathlib/CategoryTheory/Monoidal/Cartesian/Grp_.lean (hunk 8 above)
Comment (robin-carlier) [reply Mathlib/CategoryTheory/Monoidal/Cartesian/Grp_.lean:141]: Why not putting it next to the concerned code? I'm not asking for a long library note or doc entry, just something like `-- the next lemmas are aligned with MonoidHom.`.

**Comment by YaelDillies** [comment]
I don't believe it has ever been and will ever be manageable to keep up with mathlib development just by reading the RSS feed and what you're asking me about are near implementation details which won't make you understand mathlib development any better (except maybe the Yoneda-like lemmas? I could concede), but sure here they are.

In the future, note that you don't need to ask people to write a better PR description: you can do so yourself. Be considerate when editing an existing PR description of course, but nobody will mind you replacing a non-description with a description.

File: Mathlib/CategoryTheory/Monoidal/Cartesian/Grp_.lean (hunk 8 above)
Comment (erdOne) [reply Mathlib/CategoryTheory/Monoidal/Cartesian/Grp_.lean:141]: I am planning on writing a decent library note about this so I think we can postpone this to a future PR.

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

File: Mathlib/CategoryTheory/Monoidal/Grp_.lean [hunk 9]
```diff
@@ -182,11 +182,14 @@ theorem mul_inv [BraidedCategory C] (A : C) [Grp_Class A] :
...
     lift_comp_inv_left, comp_toUnit_assoc]
 
-@[reassoc (attr := simp)]
+@[reassoc]
 theorem tensorHom_inv_inv_mul [BraidedCategory C] (A : C) [Grp_Class A] :
     (ι[A] ⊗ ι[A]) ≫ μ = (β_ A A).hom ≫ μ ≫ ι := by
   rw [mul_inv A, SymmetricCategory.symmetry_assoc]
 
+lemma mul_inv_rev [BraidedCategory C] (G : C) [Grp_Class G] :
+    μ ≫ ι = (ι[G] ⊗ ι) ≫ (β_ _ _).hom ≫ μ := by simp [tensorHom_inv_inv_mul]
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Monoidal/Grp_.lean]:
```suggestion
    μ ≫ ι = (ι[G] ⊗ₘ ι) ≫ (β_ _ _).hom ≫ μ := by simp [tensorHom_inv_inv_mul]
```

File: Mathlib/CategoryTheory/Monoidal/Grp_.lean [hunk 10]
```diff
@@ -182,11 +182,14 @@ theorem mul_inv [BraidedCategory C] (A : C) [Grp_Class A] :
   rw [← lift_fst_snd, ← lift_lift_assoc (fst A A ≫ _), lift_comp_inv_left, lift_comp_one_left,
     lift_comp_inv_left, comp_toUnit_assoc]
 
-@[reassoc (attr := simp)]
+@[reassoc]
 theorem tensorHom_inv_inv_mul [BraidedCategory C] (A : C) [Grp_Class A] :
     (ι[A] ⊗ ι[A]) ≫ μ = (β_ A A).hom ≫ μ ≫ ι := by
   rw [mul_inv A, SymmetricCategory.symmetry_assoc]
 
+lemma mul_inv_rev [BraidedCategory C] (G : C) [Grp_Class G] :
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Monoidal/Grp_.lean:187]:
```suggestion
@[reassoc]
lemma mul_inv_rev [BraidedCategory C] (G : C) [Grp_Class G] :
```

File: Mathlib/CategoryTheory/Monoidal/Mon_.lean [hunk 11]
```diff
@@ -179,9 +179,12 @@ instance : Category (Mon_ C) where
 instance {M N : Mon_ C} (f : M ⟶ N) : IsMon_Hom f.hom := ⟨f.2, f.3⟩
 
 @[ext]
-lemma Hom.ext' {X Y : Mon_ C} {f g : X ⟶ Y} (w : f.hom = g.hom) : f = g :=
+lemma Hom.ext' {M N : Mon_ C} {f g : M ⟶ N} (w : f.hom = g.hom) : f = g :=
   Hom.ext w
 
+lemma hom_injective {M N : Mon_ C} : Injective (Hom.hom : (M ⟶ N) → (M.X ⟶ N.X)) :=
+  fun _ _ ↦ Hom.ext
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Monoidal/Mon_.lean:187]: Do we really need this? We already have a `Faithful` instance on `forget C`, so this is `Functor.Faithful.map_injective (F := forget C)`.

File: Mathlib/CategoryTheory/Monoidal/Cartesian/Grp_.lean [hunk 12]
```diff
@@ -121,12 +125,45 @@ lemma essImage_yonedaGrp :
...
 
 lemma Grp_Class.inv_eq_inv : ι = (𝟙 G)⁻¹ := by simp [Hom.inv_def]
+
+instance [BraidedCategory C] [IsCommMon G] : IsMon_Hom ι[G] where
+  one_hom := by simp [one_eq_one, ← Hom.inv_def]
+  mul_hom := by simp [Grp_Class.mul_inv_rev]
+
+instance [BraidedCategory C] [IsCommMon G] {f : M ⟶ G} [IsMon_Hom f] : IsMon_Hom f⁻¹ where
+  one_hom := by simp [Hom.inv_def]
+  mul_hom := by simp [Hom.inv_def]
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Monoidal/Cartesian/Grp_.lean]:
```suggestion
attribute [local simp] Hom.inv_def in
instance [BraidedCategory C] [IsCommMon G] {f : M ⟶ G} [IsMon_Hom f] : IsMon_Hom f⁻¹ where
```
Yay, one line less!

File: Mathlib/CategoryTheory/Monoidal/Cartesian/Grp_.lean [hunk 13]
```diff
@@ -18,7 +18,12 @@ open CategoryTheory MonoidalCategory Limits Opposite CartesianMonoidalCategory M
 
 universe w v u
 variable {C : Type u} [Category.{v} C] [CartesianMonoidalCategory C]
-  {G H X Y : C} [Grp_Class G] [Grp_Class H]
+  {M G H X Y : C} [Mon_Class M] [Grp_Class G] [Grp_Class H]
+
+/-- Construct a morphism `G ⟶ H` of `Grp_ C` C from a map `f : G ⟶ H` and a `IsMon_Hom f`
+instance. -/
+@[simps]
+def Grp_.homMk (f : G ⟶ H) [IsMon_Hom f] : .mk' G ⟶ Grp_.mk' H := Mon_.Hom.mk' f
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Monoidal/Cartesian/Grp_.lean]:
```suggestion
def Grp_.homMk (f : G ⟶ H) [IsMon_Hom f] : .mk G ⟶ Grp_.mk H := Mon_.Hom.mk f
```

`mk'` is deprecated in current master

File: Mathlib/CategoryTheory/Monoidal/Cartesian/Grp_.lean [hunk 14]
```diff
@@ -121,12 +125,45 @@ lemma essImage_yonedaGrp :
...
+
 @[reassoc]
 lemma Grp_Class.comp_inv (f : X ⟶ Y) (g : Y ⟶ G) : f ≫ g⁻¹ = (f ≫ g)⁻¹ :=
   ((yonedaGrp.obj <| .mk' G).map f.op).hom.map_inv g
 
 @[reassoc]
-lemma Grp_Class.inv_comp (f : X ⟶ G) (g : G ⟶ H) [IsMon_Hom g] : f⁻¹ ≫ g = (f ≫ g)⁻¹ := by
-  simp [Hom.inv_def]
+lemma Grp_Class.comp_div (f : X ⟶ Y) (g h : Y ⟶ G) : f ≫ (g / h) = f ≫ g / f ≫ h :=
+  ((yonedaGrp.obj (.mk' G)).map f.op).hom.map_div g h
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Monoidal/Cartesian/Grp_.lean]:
```suggestion
  ((yonedaGrp.obj (.mk G)).map f.op).hom.map_div g h
```

**Review by robin-carlier — COMMENTED** [review]
Some things are deprecated/broken when you merge master.

File: Mathlib/CategoryTheory/Monoidal/Mon_.lean (hunk 11 above)
Comment (YaelDillies) [reply Mathlib/CategoryTheory/Monoidal/Mon_.lean:187]: It feels very natural to have it and much more discoverable than your suggestion. Furthermore, other categories have it already, eg `ModuleCat`

Comment (robin-carlier) [reply Mathlib/CategoryTheory/Monoidal/Mon_.lean:187]: Fair enough about discoverability.

File: Mathlib/CategoryTheory/Monoidal/Cartesian/Grp_.lean [hunk 15]
```diff
@@ -121,12 +125,44 @@ lemma essImage_yonedaGrp :
...
+instance [BraidedCategory C] [IsCommMon G] : IsMon_Hom ι[G] where
+  one_hom := by simp [one_eq_one, ← Hom.inv_def]
+  mul_hom := by simp [Grp_Class.mul_inv_rev]
+
+attribute [local simp] Hom.inv_def in
+instance [BraidedCategory C] [IsCommMon G] {f : M ⟶ G} [IsMon_Hom f] : IsMon_Hom f⁻¹ where
+
+/-- If `G` is a commutative group object, then `Hom(X, G)` has a commutative group structure. -/
+abbrev Hom.commGroup [BraidedCategory C] [IsCommMon G] : CommGroup (X ⟶ G) where
+  inv_mul_cancel f := by simp
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Monoidal/Cartesian/Grp_.lean]:
```suggestion
```
Autoparams work here.

**Comment by robin-carlier** [comment]
Thanks!

maintainer merge

**Comment by riccardobrasca** [comment]
Thanks!

bors merge

**Comment by riccardobrasca** [comment]
Can you merge master try again? Thanks!

bors d+

**Comment by YaelDillies** [comment]
Looks like the error has nothing to do with this PR. Can you try reborsing?

**Comment by riccardobrasca** [comment]
bors merge
